US05189023
Methyl 3-phenylpropylphosphinate
Prepared in a similar manner as Reference Example 24 from 3-phenylpropylphosphinic acid and methanol to give a colorless oil.

reactant | 3-phenylpropylphosphinic acid | C1(=CC=CC=C1)CCCP(O)=O | C9H13O2P
reactant | methanol | CO | CH4O
product | Methyl 3-phenylpropylphosphinate | C1(=CC=CC=C1)CCCP(OC)=O | C10H15O2P
